US07902201B2
b) 3-Pyridin-2-yl-isoxazole-4-carboxylic acid
As described for example 17a, 3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester (9.6 g, 44 mmol), instead of 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester, was converted to the title compound (6.5 g, 79%) which was obtained as an off-white solid. MS: m/e=189.3 [M−H]−.

reactant | 3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester | 44 mmol, 9.6 g | C(C)OC(=O)C=1C(=NOC1)C1=NC=CC=C1 | C11H10N2O3
reactant | 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C16H12ClN3O4
product | 3-Pyridin-2-yl-isoxazole-4-carboxylic acid | 6.5 g, 79% | N1=C(C=CC=C1)C1=NOC=C1C(=O)O | C9H6N2O3
